US07612226B2
(3S,5S)-3-(3-Ethylpentyl)-3-methyl-5-phenylmorpholin-2-one
The title compound was prepared from (5S)-3-methyl-5-phenyl-5,6-dihydro-2H-1,4-oxazin-2-one (0.454 g, 2.39 mmol, see WO-A-02/051983) and 1-bromo-3-ethylpentane (see Bull. Soc. Chim. Fr., 1975, 201-205) according to the procedure outlined in Preparation 1. The total amount of compound synthesised was 0.07 g.

reactant | (5S)-3-methyl-5-phenyl-5,6-dihydro-2H-1,4-oxazin-2-one | CC=1C(OC[C@@H](N1)C1=CC=CC=C1)=O | C11H11NO2
reactant | 1-bromo-3-ethylpentane | BrCCC(CC)CC | C7H15Br
product | (3S,5S)-3-(3-Ethylpentyl)-3-methyl-5-phenylmorpholin-2-one | C(C)C(CC[C@@]1(N[C@H](COC1=O)C1=CC=CC=C1)C)CC | C18H27NO2
